US07368434B2
7,8-Dimethoxyisoflavone (Analog 34)
This compound was prepared as described in the synthesis of analog 23. A mixture of 2.76 g of phenylacetic acid (20.08 mmol), 5.0 g of 2, 3-dimethoxylphenol (32.43 mmol) and 50 ml of boron trifluoride diethyl ether ate was stirred at 80° C. for 19 hours. Reaction mixture was then cooled to RT and washed with aqueous K2CO3 and water sequentially until pH of the filtrate approached neutrality. Product was extracted with ethyl acetate and concentrated to dryness. The residue, which contained mostly 2-hydroxy-3,4-dimethoxyphenylbenzylketone, was dissolved in 50 ml of 2-propanol and 3.0 ml of morpho line and 6.0 ml of triethyl orthoformate (36.07 mmol) were added. The mixture was stirred at 80° C. for 20 hours and evaporated to dryness. The residue was fractionated on a silica gel (chloroform-methanol system) and fractions that contained pure product were pooled, dried, and recrystallized from acetone to give 300 mg of analog 34 (crystalline plates), a yield of 6% (based on 2,3-dimethoxylphenol, w/w): mp 143-144° C. 1HNMR (DMSO-d6) δ 3.89 (8-OCH3), 3.96 (7-OCH3), 7.30 (d, 1H, J=9.03, Hz, 6-H), 7.39 (t, 1H, J=6.94 Hz, 4′-H), 7.43 (t, 2H, J=7.06, 7.72 Hz, 3′, 5′-H), 7.57 (dd, 2H, J=7.26, 1.44 Hz, 2′, 6′-H), 7.87 (d, 1H, J=8.88 Hz, 5-H), 8.50 (s, 1H, 2H). 13C NMR (DMSO-d6) δ 56.5 (—OCH3), 60.9 (—OCH3), 111.0 (C-6), 118.5 (C-10), 120.9 (C-3), 123.3 (C-1′), 127.8 (C-5), 128.1 (C-3′, 5′), 128.9 (C-2′, 6′), 131.9 (C-4′), 136.1(C-8), 149.9(C-7), 154.1 (C-2), 156.2 (C-9), 174.6 (C-4). MS (m/z) 283.3 (M+H)+, 305.4 (M+Na)+, 281.9 (M−H)−. Anal. (C17H14O4) for C, H. Cacld: 72.33, 4.99; found: 72.21, 4.97.

reactant | phenylacetic acid | 20.08 mmol, 2.76 g | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | 2, 3-dimethoxylphenol | 32.43 mmol, 5.0 g | O(C)C1=C(C=CC=C1OC)O | C8H10O3
reactant | morpho line | 3.0 ml | N1CCOCC1 | C4H9NO
reactant | triethyl orthoformate | 36.07 mmol, 6.0 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | boron trifluoride diethyl ether ate | 50 ml | B(F)(F)F.CCOCC
product | 7,8-Dimethoxyisoflavone | yield of 6% | COC1=CC=C2C(C(=COC2=C1OC)C1=CC=CC=C1)=O | C17H14O4
